US07671063B2
30 mg of 10% Pd on carbon are added to a solution of 2-nitro-6-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide (63 mg, 0.21 mmol) in EtOH (10 mL). The mixture is stirred for 30 min under hydrogen. The catalyst is removed by filtration. Evaporation of solvent gives 2-amino-6-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide.

reactant | 2-nitro-6-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide | 0.21 mmol, 63 mg | [N+](=O)([O-])C1=C(C(=CC=C1)OCC(F)(F)F)S(=O)(=O)N | C8H7F3N2O5S
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd on carbon | 30 mg | [Pd] | Pd
product | 2-amino-6-(2,2,2-trifluoro-ethoxy)-benzenesulfonamide | NC1=C(C(=CC=C1)OCC(F)(F)F)S(=O)(=O)N | C8H9F3N2O3S
